US07253171B2
A mixture of 2-benzenesulfonylphenylamine (1.88 g, 8.04 mmol) and diphosgene (0.48 ml, 4.02 mmol) in dioxane (25 ml) was heated at 60° C. for 16 h. The solvent was removed under reduced pressure. A solution of the crude isocyanate (8.04 mmol) in dichloromethane (14 ml) was slowly added to a solution of (S)-4-nitrophenylalanine methyl ester hydrochloride (2.31 g, 8.84 mmol) and triethylamine (3.7 ml, 26.52 mmol) in dichloromethane (14 ml) and the resulting reaction mixture was stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane (100 ml) and washed with hydrochloric acid 1N (3×50 ml), saturated aqueous NaHCO3 (3×50 ml) and brine (1×50 ml). The organic layer was dried (MgSO4) and concentrated under reduced pressure to yield (S)-2-[3-(2-Benzenesulfonylphenyl)ureido]-3-(4-nitrophenyl) propionic acid methyl ester (3.64 g, 94%) that was used in the next step without further purification.

reactant | 2-benzenesulfonylphenylamine | 8.04 mmol, 1.88 g | C1(=CC=CC=C1)S(=O)(=O)C1=C(C=CC=C1)N | C12H11NO2S
reactant | diphosgene | 4.02 mmol, 0.48 ml | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | isocyanate | 8.04 mmol | [N-]=C=O
reactant | (S)-4-nitrophenylalanine methyl ester hydrochloride | 8.84 mmol, 2.31 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O
reactant | triethylamine | 26.52 mmol, 3.7 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 14 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (S)-2-[3-(2-Benzenesulfonylphenyl)ureido]-3-(4-nitrophenyl) propionic acid methyl ester | 3.64 g, 94% | COC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)NC1=C(C=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C23H21N3O7S
